US05480899
Synthesis of 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxyaniline
A 0.47 g quantity of 10% palladium carbon was added to a solution of 4.64 g of 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxynitrobenzene in 50 ml of 1,4-dioxane and 150 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 2.5 hours in a stream of hydrogen under 5 atmospheric pressure. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. Methanol was added to the obtained residue to collect the crystals by filtration. Thus, 3.41 g of the title compound was obtained (yield 81%).

reactant | 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxynitrobenzene | 4.64 g | N1=C(C=CC=C1)N1C(OC(C1)COC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H13N3O5
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | [C].[Pd]
product | 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxyaniline | 3.41 g, yield 81% | N1=C(C=CC=C1)N1C(OC(C1)COC1=CC=C(N)C=C1)=O | C15H15N3O3
